US08747695B2
2) Synthesis of 1-bromo-4-(4-n-propylphenylethynyl)naphthalene
15.3 g (43.6 mmol) of 1-iodo-4-bromonaphthalene and 7.25 g (5.3 mmol) of 4-n-propylphenylacetylene are initially introduced in 200 ml of NEt3, 170 mg (0.9 mmol) of copper(I) iodide and 600 mg (0.9 mmol) of bis-(triphenylphosphine)palladium(II) chloride are added, and the mixture is refluxed for 30 minutes. The batch is cooled, water and heptane are added, and the phases are separated. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated in a rotary evaporator. The residue is purified by column chromatography (SiO2, heptane), and the further purification is carried out by recrystallisation from isopropanol.

reactant | 1-iodo-4-bromonaphthalene | 43.6 mmol, 15.3 g | IC1=CC=C(C2=CC=CC=C12)Br | C10H6BrI
reactant | 4-n-propylphenylacetylene | 5.3 mmol, 7.25 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
reactant | water | O | H2O
reactant | heptane | CCCCCCC | C7H16
solvent | NEt3 | 200 ml | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.9 mmol, 170 mg | [Cu]I
catalyst | bis-(triphenylphosphine)palladium(II) chloride | 0.9 mmol, 600 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-bromo-4-(4-n-propylphenylethynyl)naphthalene | BrC1=CC=C(C2=CC=CC=C12)C#CC1=CC=C(C=C1)CCC | C21H17Br
